### PR TITLE
project clean up

### PR DESCRIPTION
**Pull request by rkirov**
- move common options to lakefile.toml instead of at the top of each file. Turning on noimplit vars caused some fixes in Ch7.
- simplify a few proofs in Ch5
- remove #min_imports and #eval and #check. AFAIU these should only be used during development and not checked in.
- pasted the most current output of #min_imports.
- removed some lemmas that felt no longer needed.
- some whitespace clean up.

### CODE REVIEW

File: ClassificationOfSubgroups/Ch5_PropertiesOfSLOverAlgClosedField/S4_PropertiesOfCentralizers.lean [hunk 1]
```diff
@@ -47,6 +43,13 @@ theorem centralizer_s_eq_SZ {σ : F} (hσ : σ ≠ 0) : centralizer { s σ } = S
     rw [hy]
     simp [add_comm]
 
+theorem centralizer_s_eq_neg_s {σ : F}:
```
Comment (rkirov) [inline ClassificationOfSubgroups/Ch5_PropertiesOfSLOverAlgClosedField/S4_PropertiesOfCentralizers.lean:46]: not sure if this will be useful, but realized that the negative part wasn't formalized

File: ClassificationOfSubgroups/Ch5_PropertiesOfSLOverAlgClosedField/S2_SpecialSubgroups.lean [hunk 2]
```diff
@@ -391,87 +369,18 @@ lemma left_subgroupOf_join_right_subgroupOf_join_eq_join_subgroupOf_join {G : Ty
...
-
-#check QuotientGroup.quotientBot
-
-#check MulEquiv.trans
-
-#check QuotientGroup.equivQuotientSubgroupOfOfEq
-
-#check QuotientGroup.quotientMulEquivOfEq
-
-def RHS (F : Type*) [Field F] :=
```
Comment (rkirov) [inline ClassificationOfSubgroups/Ch5_PropertiesOfSLOverAlgClosedField/S2_SpecialSubgroups.lean:424]: I think these were not used anywhere and felt like an earlier attempts that were superceded by mathlib stuff, but let me know if I was wrong and I will add them back.

**Comment by rkirov** [comment]
Ops, I seem to have added two commits to the same PR, will try to keep them in seperate branches and PRs in the future. Thank you for reviewing them.
